* C:\Users\elife\Desktop\Draft1.asc
L1 N004 PWM_low 37.7e-6
L2 N002 N005 9.43548E-06
Vin N001 0 36
M1 N001 PWM_high PWM_low PWM_low BSC100N10NSF
M2 N004 PWM 0 0 BSC100N10NSF
D2 N004 N001 RBQ30NS100A
D3 N002 N003 RBQ30NS100A
Cout N003 N005 100µ
Rload N003 N005 1.2
V2 PWM 0 PULSE(-20 10 0 1e-9 1e-9 0.42e-5 1e-5)
V1 PWM_high PWM_low PULSE(-20 10 0 1e-9 1e-9 0.42e-5 1e-5)
D1 0 PWM_low RBQ30NS100A
.model D D
.lib C:\Users\elife\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\elife\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0.02
K L1 L2 1
.backanno
.end
